US06218404B1
5-[(3-Benzyl)-1-piperidinyl]valeric acid methyl ester.
To a solution of 3-benzylpiperidine hydrochloride (2 g, 9.4 mmol) in DMF (40 mL) were added methyl 5-bromovalerate (1.6 mL, 11.3 mmol) and potassium carbonate (3.2 g, 23.6 mmol). This heterogeneous mixture was heated at 110° C. for 1 hr then cooled at 25° C., diluted with water (200 mL) and diethyl ether (200 mL). The aqueous solution was extracted with diethyl ether (100 mL) and the collected organic phase was washed with brine (200 mL), dried and concentrated in vacuum. The crude compound was purified by silica gel column chromatography using CH2Cl2/MeOH as eluant to afford the title compound as an oil (1.76 g, 65%). 1H-NMR (CDCl3): 0.8-1.0 (m, 1H); 1.4-1.7 (m, 8H); 1.8-1.95 (m, 2H); 2.25-2.35 (m, 4H); 2.4-2.6 (m, 2H); 2.75-2.9 (m, 2H); 3.65 (s, 3H); 7.132 (d, J=7.0, 2H); 7.186 (d, J=7.2, 1H); 7.264 (t, J=7.2, 2H).

reactant | 3-benzylpiperidine hydrochloride | 9.4 mmol, 2 g | Cl.C(C1=CC=CC=C1)C1CNCCC1
reactant | methyl 5-bromovalerate | 11.3 mmol, 1.6 mL | BrCCCCC(=O)OC | C6H11BrO2
reactant | potassium carbonate | 23.6 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 5-[(3-Benzyl)-1-piperidinyl]valeric acid methyl ester | 1.76 g, 65% | COC(CCCCN1CC(CCC1)CC1=CC=CC=C1)=O | C18H27NO2
